US06653430B1
A solution of 18.9 g (200 mmol) of chloroethyl methyl ether in 100 ml of THF was gradually dropwise added to a solution of 32 g (200 mmol) of trimethylsilyl-cyclopentadienylsodium in 400 ml of THF while being stirred in an argon atmosphere at −78° C. After completion of the addition, the reaction mixture was heated under reflux overnight. Then THF was distilled off under a reduced pressure, and the obtained solid was filtered off and subjected to vacuum distillation (80° C./1 mmHg) to give about 33 g of [(2-methoxy)ethyl]-trimethylsilylcyclopentadiene (TMSCpCH2CH2OMe). Yield: 85%. The chemical structure was confirmed by the following data obtained by 1H-NMR using CDCl3.

reactant | chloroethyl methyl ether | 200 mmol, 18.9 g | COCCCl | C3H7ClO
reactant | trimethylsilyl-cyclopentadienylsodium | 200 mmol, 32 g | C[Si](C)(C)C1(C=CC=C1)[Na]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | [(2-methoxy)ethyl]-trimethylsilylcyclopentadiene | about 33 g, Yield: 85% | COCCC1=C(CC=C1)[Si](C)(C)C | C11H20OSi
